Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ was out in store shopping, had headache (unusual for him)
and took NTG (but denies CP) and then passed out. +LOC.  Went to
OSH where CT showed bifrontal contusion/SAH and small blodd R
Sylvian fissure.  Takes ___.  Transferred here.

- Further discussion with the patient and he then stated that a 
headache did not preceed fall.
 
Past Medical History:
CAD, HTN, HL, hypothyroidism
 
Social History:
___
Family History:
NC
 
Physical Exam:
On Admission:
PHYSICAL EXAM:
O: T: 97.9  BP: 138/70    HR: 68   R 20      98 O2Sats
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ___        EOMs full
Neck: in hard collar, no point tenderness

Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam,
affect slightly disinhibited.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3to2
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally.

On Discharge:
AOx3, ___ ___, nonfocal exam

 
Pertinent Results:
Head CT:
Bifrontal SAH

CTA:
Negative for aneurysm

Head CT:
Stable appearance of bifrontal SAH.
 
Brief Hospital Course:
___ s/p fall yesterday with small bifrontal contusions and SAH.  
The contusions and SAH remained stable on serial imaging. The 
patient's clinical exam remained nonfocal. He was discharged 
home on ___ after an assessment by ___.
 
Medications on Admission:
___ 81, nifedipine, levothyroxine

 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for headache.  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Butalbital-Acetaminophen-Caff 50-325-40 mg Tablet Sig: ___ 
Tablets PO Q6H (every 6 hours) as needed for Headache.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General Instructions

•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc. 
•If you were on a medication such as Coumadin (Warfarin), or 
Plavix (clopidogrel), or Aspirin prior to your injury, you may 
safely resume taking this after your follow-up with Dr. ___

___ YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___